*****************************************************************
* SIEMENS                                                       *
* SPICE Library for CoolMOS   Version 3.1              02/99  	*
*                                                               *
* Models provided by SIEMENS are not warranted by SIEMENS    	*
* as fully representing all of the specifications and operating *  
* characteristics of the semiconductor product to which the    	*
* model relates. The model describe the characteristics of a    *
* typical device.                                               *
* In all cases, the current data sheet information for a given 	*
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance  	*
* under all conditions, nor are they intended to replace bread- *     
* boarding for final verification. SIEMENS therefore does not 	*
* assume any liability arising from their use.                  *
* SIEMENS reserves the right to change models without prior 	*
* notice.                                                       *
*                                                               *
* This library contains level-3 models of the following 	*
* SIEMENS CoolMOS Transistors:    				*
*                                                               *
* 190mOhm: SPP20N60S5 / SPB20N60S5 				*
* 600mOhm: SPP07N60S5 / SPB07N60S5 				*
* 1.4 Ohm: SPP03N60S5 / SPB03N60S5 				*
*                          					*
*                                                  		*
*****************************************************************
*
* CoolMOS models for PSPICE
***************************************
.SUBCKT SPP20N60S5_L3 gate drain source TJ Tcase Tamb
******************
* Parameters 
* units cm, s, A, V

.PARAM  VTH = 4.5
.PARAM  Weff = 1.59
.PARAM  L = 2.0u

.PARAM  nsub = 2.0E17
.PARAM  tox = 80E-9
.PARAM  vmax = 1.25E5
.PARAM  uo = 575

.PARAM  Rs = 1.2m
.PARAM  Rg = 6.35
.PARAM  alpha = 1
.PARAM  Rd0 = 123m
.PARAM  Uc = 11.44

.PARAM  Ls = 6n 
.PARAM  Lg = 9n
.PARAM  Ld = 5n

.PARAM  Isj = 1E-10
.PARAM  BV = 601

.PARAM  Cox = 6n	Cds0 = 12n	Cgs = 2.5n

.PARAM  selfh = 1

.PARAM  Rth1 = 0.012
.PARAM  Rth2 = 0.007
.PARAM  Rth3 = 0.024
.PARAM  Rth4 = 0.053
.PARAM  Rth5 = 0.081
.PARAM  Rth6 = 0.038

.PARAM  CZth1 = 4.41e-4
.PARAM  CZth2 = 2.175e-3
.PARAM  CZth3 = 1.9e-3
.PARAM  CZth4 = 2.79e-3
.PARAM  CZth5 = 0.018
.PARAM  CZth6 = 0.136

*****************************************************
.PARAM  Vp = 100	
.PARAM  Fg = 0.85
.PARAM	delta = 1 
.PARAM	k2 = 0.07
.PARAM	k3 = 0.665
.PARAM	k4 = 4.351n
.PARAM	k5 = 0.136
.PARAM 	k7 = 156
.PARAM	k8 = 0.625
.PARAM	k9 = 0.276
.PARAM	k10 = 29.6
.PARAM	k11 = 3.8m
.PARAM	k12 = 0.2
.PARAM	k13 = 240u
*****************************************************

.MODEL DB_L1 D (IS={Isj},RS=0.6M,TT=375N,BV={BV},N=1.25,CJO=0,VJ=0.464) 
.MODEL NMOS_L3 NMOS (LEVEL=3, VTO={VTH}, W={Weff}, L={L}, nsub={nsub},tox={tox}, vmax={vmax}, uo={uo})

**** netlist coolmos_L3 / static part ***********

R_R_EDEP_k         dEDEP ox  0.01m  
L_Ls         SOURCE lsrs  {Ls}  
R_R_EQJ_k         dEQJ j  0.01m  
C_Cds0         s j  {Cds0}  
D_D5         s ldrd DB_L1 
R_R_EQJ_g         j d  1E12  
L_Ld         DRAIN ldrd  {Ld}  
R_R_ERd_g         d ldrd1  1E12  
R_R_ERd_k         dERd d  0.01m  
R_R_EDEP_g         ox d  1E12  
R_R_Ealpha_k         dalpha di1a  0.01m  
R_R_Ealpha_g         di1a d  1E12  
G_ABMI1         di1a s VALUE { I(V_Idi_MESS)*((TEMP+273)/(V(TJ)+273))**1.5    }
R_Rs         s lsrs  {Rs}  
M_X1         di gi s s NMOS_L3
R_R_gi         s gi  1E12  
L_Lg         GATE lgrg  {Lg}  
R_Rg         lgrg g  {Rg}  
C_Cox         g ox  {Cox}  
C_Cgs         s g  {Cgs}  
R_R_Cgs         s g  1E12  
R_Rth6         5 Tcase  {Rth6}  
C_CZth5         Tamb 4  {CZth5}  
R_Rth5         4 5  {Rth5}  
R_Rth4         3 4  {Rth4}  
C_CZth4         Tamb 3  {CZth4}  
C_CZth3         2 Tamb  {CZth3}  
R_Rth3         2 3  {Rth3}  
R_Rth2         1 2  {Rth2}  
C_CZth2         Tamb 1  {CZth2}  
R_Rth1         TJ 1  {Rth1}  
C_CZth1         TJ Tamb  {CZth1}  
C_CZth6         Tamb 5  {CZth6}  
V_Idi_MESS         di1b di DC 0V AC 0V 
V_Id_MESS         ldrd ldrd1 DC 0V AC 0V 
E_E_Rd         ldrd1 dERd VALUE { I(V_Id_MESS)*(
+ {Rd0}*0.5*(1+SQRT(1+4*(V(ldrd,d)/Uc)**2)))*((V(1)+273)/(TEMP+273))**1.5 }
E_E_alpha         d dalpha VALUE { IF( (V(DRAIN)-V(SOURCE))>0,
+ {alpha}*(V(di)-V(s))**2,0) }
E_EQJ         d dEQJ VALUE { VQds(V(d,s),V(g,s)) }
E_EDEP         d dEDEP VALUE { Vdep(V(d,s),V(g,s)) }
E_E_di         di1b s di1a s 1
E_Egate         gi s VALUE { V(g, s)-(V(TJ)-{TEMP})*0.0025 }
G_G_Ptot_Kanal         0 TJ VALUE { if (time>50n, V(d,s)*I(L_Ld)*{selfh},0) }
G_G_Ptot_Epi         0 1 VALUE { if (time>50n, V(ldrd,d)*I(L_Ld)*{selfh},0) }

*************************************************
* dynamic functions
* depletion regions of pn-junctions
.FUNC	F1(X)	{0.5*(X-k9+SQRT((X+k9)*(X+k9)+delta*1E-3))}
.FUNC	F2(X)	{0.5*(F1(X)+k10-SQRT((F1(X)-k10)*(F1(X)-k10)+delta))}
.FUNC	F3(X)	{SQRT(2*k4*(k9+F2(X))/(1+k8))}
.FUNC	F4(X)	{SQRT(2*k4*(F1(X)-F2(X))+(k11+F3(X))*(k11+F3(X)))-k11}
* drain-gate charge
.FUNC	F5(X,Y) {Fg*0.5*(F2(X)-Y+SQRT((F2(X)-Y)*(F2(X)-Y)+delta))}
.FUNC	F6(X,Y) {0.5*(F1(X)-Y+SQRT((F1(X)-Y)*(F1(X)-Y)+delta))}
.FUNC	F7(X,Y) {SQRT(2*F5(X,Y)/k5+1)-1}
.FUNC	F8(X,Y) {SQRT(2*(F6(X,Y)-F5(X,Y))/k5+(1+k7)*(1+k7))-(1+k7)}	
.FUNC	Vdep(X,Y) {F6(X,Y)-k5*(F7(X,Y)+F8(X,Y))}
* drain-source charge
.FUNC	F9(X,Y) {2*(1+k12*(F1(X)-F2(X))/(Vp+F1(X)-F2(X))-F7(X,Y)/k7)}
.FUNC	VQds(X,Y) {F1(X)-k13*(F9(X,Y)*k3*F3(X)+k2*F4(X))/Cds0}
***************************************************************
.ENDS   SPP20N60S5_L3

***************************************************************
.SUBCKT SPP07N60S5_L3 gate drain source TJ Tcase Tamb
******************
* Parameters 
* units cm, s, A, V

.PARAM  VTH = 5.5
.PARAM  Weff = 0.485
.PARAM  L = 2.0u

.PARAM  nsub = 2.0E17
.PARAM  tox = 80E-9
.PARAM  vmax = 1.25E5
.PARAM  uo = 575

.PARAM  Rs = 2.5m
.PARAM  Rg = 10.2
.PARAM  alpha = 1
.PARAM  Rd0 = 423m
.PARAM  Uc = 10.41
.PARAM  Ls = 7n 
.PARAM  Lg = 9n
.PARAM  Ld = 5n

.PARAM  Isj = 1E-10
.PARAM  BV = 601

.PARAM  Cox = 1.864n	Cds0 = 3.69n	Cgs = 0.431n

.PARAM  selfh = 1

.PARAM  Rth1 = 0.037
.PARAM  Rth2 = 0.021
.PARAM  Rth3 = 0.072
.PARAM  Rth4 = 0.152
.PARAM  Rth5 = 0.201
.PARAM  Rth6 = 0.076

.PARAM  CZth1 = 1.36e-4
.PARAM  CZth2 = 6.9e-4
.PARAM  CZth3 = 6.17e-4
.PARAM  CZth4 = 9.37e-4
.PARAM  CZth5 = 6.69e-3
.PARAM  CZth6 = 0.063

*****************************************************
.PARAM  Vp = 100	
.PARAM  Fg = 0.85
.PARAM	delta = 1 
.PARAM	k2 = 0.022
.PARAM	k3 = 0.205
.PARAM	k4 = 4.351n
.PARAM	k5 = 0.135
.PARAM 	k7 = 157
.PARAM	k8 = 0.625
.PARAM	k9 = 0.276
.PARAM	k10 = 29.6
.PARAM	k11 = 3.8m
.PARAM	k12 = 0.2
.PARAM	k13 = 240u
*****************************************************

.MODEL DB_L1 D (IS={Isj},RS=1.95M,TT=375N,BV={BV},N=1.25,CJO=0,VJ=0.464) 
.MODEL NMOS_L3 NMOS (LEVEL=3, VTO={VTH}, W={Weff}, L={L}, nsub={nsub},tox={tox}, vmax={vmax}, uo={uo})

**** netlist coolmos_L3 / static part ***********
R_R_EDEP_k         dEDEP ox  0.01m  
L_Ls         SOURCE lsrs  {Ls}  
R_R_EQJ_k         dEQJ j  0.01m  
C_Cds0         s j  {Cds0}  
D_D5         s ldrd DB_L1 
R_R_EQJ_g         j d  1E12  
L_Ld         DRAIN ldrd  {Ld}  
R_R_ERd_g         d ldrd1  1E12  
R_R_ERd_k         dERd d  0.01m  
R_R_EDEP_g         ox d  1E12  
R_R_Ealpha_k         dalpha di1a  0.01m  
R_R_Ealpha_g         di1a d  1E12  
G_ABMI1         di1a s VALUE { I(V_Idi_MESS)*((TEMP+273)/(V(TJ)+273))**1.5    }
R_Rs         s lsrs  {Rs}  
M_X1         di gi s s NMOS_L3
R_R_gi         s gi  1E12  
L_Lg         GATE lgrg  {Lg}  
R_Rg         lgrg g  {Rg}  
C_Cox         g ox  {Cox}  
C_Cgs         s g  {Cgs}  
R_R_Cgs         s g  1E12  
R_Rth6         5 Tcase  {Rth6}  
C_CZth5         Tamb 4  {CZth5}  
R_Rth5         4 5  {Rth5}  
R_Rth4         3 4  {Rth4}  
C_CZth4         Tamb 3  {CZth4}  
C_CZth3         2 Tamb  {CZth3}  
R_Rth3         2 3  {Rth3}  
R_Rth2         1 2  {Rth2}  
C_CZth2         Tamb 1  {CZth2}  
R_Rth1         TJ 1  {Rth1}  
C_CZth1         TJ Tamb  {CZth1}  
C_CZth6         Tamb 5  {CZth6}  
V_Idi_MESS         di1b di DC 0V AC 0V 
V_Id_MESS         ldrd ldrd1 DC 0V AC 0V 
E_E_Rd         ldrd1 dERd VALUE { I(V_Id_MESS)*(
+ {Rd0}*0.5*(1+SQRT(1+4*(V(ldrd,d)/Uc)**2)))*((V(1)+273)/(TEMP+273))**1.5 }
E_E_alpha         d dalpha VALUE { IF( (V(DRAIN)-V(SOURCE))>0,
+ {alpha}*(V(di)-V(s))**2,0) }
E_EQJ         d dEQJ VALUE { VQds(V(d,s),V(g,s)) }
E_EDEP         d dEDEP VALUE { Vdep(V(d,s),V(g,s)) }
E_E_di         di1b s di1a s 1
E_Egate         gi s VALUE { V(g, s)-(V(TJ)-{TEMP})*0.0025 }
G_G_Ptot_Kanal         0 TJ VALUE { if (time>50n, V(d,s)*I(L_Ld)*{selfh},0) }
G_G_Ptot_Epi         0 1 VALUE { if (time>50n, V(ldrd,d)*I(L_Ld)*{selfh},0) }

*************************************************
* dynamic functions
* depletion regions of pn-junctions
.FUNC	F1(X)	{0.5*(X-k9+SQRT((X+k9)*(X+k9)+delta*1E-3))}
.FUNC	F2(X)	{0.5*(F1(X)+k10-SQRT((F1(X)-k10)*(F1(X)-k10)+delta))}
.FUNC	F3(X)	{SQRT(2*k4*(k9+F2(X))/(1+k8))}
.FUNC	F4(X)	{SQRT(2*k4*(F1(X)-F2(X))+(k11+F3(X))*(k11+F3(X)))-k11}
* drain-gate charge
.FUNC	F5(X,Y) {Fg*0.5*(F2(X)-Y+SQRT((F2(X)-Y)*(F2(X)-Y)+delta))}
.FUNC	F6(X,Y) {0.5*(F1(X)-Y+SQRT((F1(X)-Y)*(F1(X)-Y)+delta))}
.FUNC	F7(X,Y) {SQRT(2*F5(X,Y)/k5+1)-1}
.FUNC	F8(X,Y) {SQRT(2*(F6(X,Y)-F5(X,Y))/k5+(1+k7)*(1+k7))-(1+k7)}	
.FUNC	Vdep(X,Y) {F6(X,Y)-k5*(F7(X,Y)+F8(X,Y))}
* drain-source charge
.FUNC	F9(X,Y) {2*(1+k12*(F1(X)-F2(X))/(Vp+F1(X)-F2(X))-F7(X,Y)/k7)}
.FUNC	VQds(X,Y) {F1(X)-k13*(F9(X,Y)*k3*F3(X)+k2*F4(X))/Cds0}
***************************************************************
.ENDS   SPP07N60S5_L3

***************************************************************
.SUBCKT SPP03N60S5_L3 gate drain source TJ Tcase Tamb
******************
* Parameters 
* units cm, s, A, V

.PARAM  VTH = 5.7
.PARAM  Weff = 0.2
.PARAM  L = 2.0u

.PARAM  nsub = 2.0E17
.PARAM  tox = 80E-9
.PARAM  vmax = 1.25E5
.PARAM  uo = 575

.PARAM  Rs = 2.5m
.PARAM  Rg = 10.2
.PARAM  alpha = 1
.PARAM  Rd0 = 906m
.PARAM  Uc = 10.87
.PARAM  Ls = 7n 
.PARAM  Lg = 9n
.PARAM  Ld = 5n

.PARAM  Isj = 1E-10
.PARAM  BV = 601

.PARAM  Cox = 0.808n	Cds0 = 1.6n	Cgs = 0.186n

.PARAM  selfh = 1

.PARAM  Rth1 = 0.085
.PARAM  Rth2 = 0.047
.PARAM  Rth3 = 0.153
.PARAM  Rth4 = 0.308
.PARAM  Rth5 = 0.356
.PARAM  Rth6 = 0.113

.PARAM  CZth1 = 5.93e-5
.PARAM  CZth2 = 3.07e-4
.PARAM  CZth3 = 2.84e-4
.PARAM  CZth4 = 4.48e-4
.PARAM  CZth5 = 3.51e-3
.PARAM  CZth6 = 0.041

*****************************************************
.PARAM  Vp = 100	
.PARAM  Fg = 0.85
.PARAM	delta = 1 
.PARAM	k2 = 9.37m
.PARAM	k3 = 0.089
.PARAM	k4 = 4.351n
.PARAM	k5 = 0.135
.PARAM 	k7 = 157
.PARAM	k8 = 0.625
.PARAM	k9 = 0.276
.PARAM	k10 = 29.6
.PARAM	k11 = 3.8m
.PARAM	k12 = 0.2
.PARAM	k13 = 240u
*****************************************************

.MODEL DB_L1 D (IS={Isj},RS=4.5M,TT=375N,BV={BV},N=1.25,CJO=0,VJ=0.464) 
.MODEL NMOS_L3 NMOS (LEVEL=3, VTO={VTH}, W={Weff}, L={L}, nsub={nsub},tox={tox}, vmax={vmax}, uo={uo})

**** netlist coolmos_L3 / static part ***********
R_R_EDEP_k         dEDEP ox  0.01m  
L_Ls         SOURCE lsrs  {Ls}  
R_R_EQJ_k         dEQJ j  0.01m  
C_Cds0         s j  {Cds0}  
D_D5         s ldrd DB_L1 
R_R_EQJ_g         j d  1E12  
L_Ld         DRAIN ldrd  {Ld}  
R_R_ERd_g         d ldrd1  1E12  
R_R_ERd_k         dERd d  0.01m  
R_R_EDEP_g         ox d  1E12  
R_R_Ealpha_k         dalpha di1a  0.01m  
R_R_Ealpha_g         di1a d  1E12  
G_ABMI1         di1a s VALUE { I(V_Idi_MESS)*((TEMP+273)/(V(TJ)+273))**1.5    }
R_Rs         s lsrs  {Rs}  
M_X1         di gi s s NMOS_L3
R_R_gi         s gi  1E12  
L_Lg         GATE lgrg  {Lg}  
R_Rg         lgrg g  {Rg}  
C_Cox         g ox  {Cox}  
C_Cgs         s g  {Cgs}  
R_R_Cgs         s g  1E12  
R_Rth6         5 Tcase  {Rth6}  
C_CZth5         Tamb 4  {CZth5}  
R_Rth5         4 5  {Rth5}  
R_Rth4         3 4  {Rth4}  
C_CZth4         Tamb 3  {CZth4}  
C_CZth3         2 Tamb  {CZth3}  
R_Rth3         2 3  {Rth3}  
R_Rth2         1 2  {Rth2}  
C_CZth2         Tamb 1  {CZth2}  
R_Rth1         TJ 1  {Rth1}  
C_CZth1         TJ Tamb  {CZth1}  
C_CZth6         Tamb 5  {CZth6}  
V_Idi_MESS         di1b di DC 0V AC 0V 
V_Id_MESS         ldrd ldrd1 DC 0V AC 0V 
E_E_Rd         ldrd1 dERd VALUE { I(V_Id_MESS)*(
+ {Rd0}*0.5*(1+SQRT(1+4*(V(ldrd,d)/Uc)**2)))*((V(1)+273)/(TEMP+273))**1.5 }
E_E_alpha         d dalpha VALUE { IF( (V(DRAIN)-V(SOURCE))>0,
+ {alpha}*(V(di)-V(s))**2,0) }
E_EQJ         d dEQJ VALUE { VQds(V(d,s),V(g,s)) }
E_EDEP         d dEDEP VALUE { Vdep(V(d,s),V(g,s)) }
E_E_di         di1b s di1a s 1
E_Egate         gi s VALUE { V(g, s)-(V(TJ)-{TEMP})*0.0025 }
G_G_Ptot_Kanal         0 TJ VALUE { if (time>50n, V(d,s)*I(L_Ld)*{selfh},0) }
G_G_Ptot_Epi         0 1 VALUE { if (time>50n, V(ldrd,d)*I(L_Ld)*{selfh},0) }

*************************************************
* dynamic functions
* depletion regions of pn-junctions
.FUNC	F1(X)	{0.5*(X-k9+SQRT((X+k9)*(X+k9)+delta*1E-3))}
.FUNC	F2(X)	{0.5*(F1(X)+k10-SQRT((F1(X)-k10)*(F1(X)-k10)+delta))}
.FUNC	F3(X)	{SQRT(2*k4*(k9+F2(X))/(1+k8))}
.FUNC	F4(X)	{SQRT(2*k4*(F1(X)-F2(X))+(k11+F3(X))*(k11+F3(X)))-k11}
* drain-gate charge
.FUNC	F5(X,Y) {Fg*0.5*(F2(X)-Y+SQRT((F2(X)-Y)*(F2(X)-Y)+delta))}
.FUNC	F6(X,Y) {0.5*(F1(X)-Y+SQRT((F1(X)-Y)*(F1(X)-Y)+delta))}
.FUNC	F7(X,Y) {SQRT(2*F5(X,Y)/k5+1)-1}
.FUNC	F8(X,Y) {SQRT(2*(F6(X,Y)-F5(X,Y))/k5+(1+k7)*(1+k7))-(1+k7)}	
.FUNC	Vdep(X,Y) {F6(X,Y)-k5*(F7(X,Y)+F8(X,Y))}
* drain-source charge
.FUNC	F9(X,Y) {2*(1+k12*(F1(X)-F2(X))/(Vp+F1(X)-F2(X))-F7(X,Y)/k7)}
.FUNC	VQds(X,Y) {F1(X)-k13*(F9(X,Y)*k3*F3(X)+k2*F4(X))/Cds0}
***************************************************************
.ENDS   SPP03N60S5_L3
